US06093737
4-[3-(6'-Methyl-2-oxo-2H-[1,2']bipyridinyl-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile was prepared in a manner substantially similar to the procedure described above for 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride, but substituting 2-bromo-6-methylpyridine for the iodobenzene in Step 3.

reactant | 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride | Cl.O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=CC=CC=C1
reactant | 2-bromo-6-methylpyridine | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 4-[3-(6'-Methyl-2-oxo-2H-[1,2']bipyridinyl-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile | CC1=CC=CC(=N1)N1C(C=C(C=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)=O | C23H19N5O
